US06300353B1
To a solution of 36 mg of 4-{4-[(tert-Butoxycarbonyl-methyl-amino)-acetoxy]-3,5-dimethyl-benzyl}-1-[(2R,3R)-3-[4-(4-cyano-phenyl)-thiazol-2-yl]-2-(2,5difluoro-phenyl)-2-hydroxy-butyl]-1H-[1,2,4]triazol-4-ium bromide in ethylacetate(2 ml) was added dropwise 4N HCl ethylacetate solution(1 mL) and the mixture was stirred at r.t. for 4 hrs. The precipitate was filtered and washed with diethylether to give 1-{(2R,3R) -3-[4-(4-cyano-phenyl)-thiazol-2-yl]-2-(2,5-difluoro-phenyl)-2-hydroxy-butyl}-4-(3,5-dimethyl-4-methylaminoacetoxy-benzyl)-1H-[1,2,4]triazol-4-ium bromide (24.5 mg, 74% as HCl salt and as white solid);

reactant | 4-{4-[(tert-Butoxycarbonyl-methyl-amino)-acetoxy]-3,5-dimethyl-benzyl}-1-[(2R,3R)-3-[4-(4-cyano-phenyl)-thiazol-2-yl]-2-(2,5difluoro-phenyl)-2-hydroxy-butyl]-1H-[1,2,4]triazol-4-ium bromide | 36 mg | [Br-].C(C)(C)(C)OC(=O)N(C)CC(=O)OC1=C(C=C(C[N+]=2C=NN(C2)C[C@]([C@@H](C)C=2SC=C(N2)C2=CC=C(C=C2)C#N)(O)C2=C(C=CC(=C2)F)F)C=C1C)C
reactant | HCl ethylacetate | 4N, 1 mL | C(C)OC(C)=O.Cl
solvent | ethylacetate | 2 ml | C(C)OC(C)=O | C4H8O2
product | 1-{(2R,3R) -3-[4-(4-cyano-phenyl)-thiazol-2-yl]-2-(2,5-difluoro-phenyl)-2-hydroxy-butyl}-4-(3,5-dimethyl-4-methylaminoacetoxy-benzyl)-1H-[1,2,4]triazol-4-ium bromide | 24.5 mg, 74% | [Br-].C(#N)C1=CC=C(C=C1)C=1N=C(SC1)[C@@H]([C@@](CN1N=C[N+](=C1)CC1=CC(=C(C(=C1)C)OC(CNC)=O)C)(O)C1=C(C=CC(=C1)F)F)C | InChI=1S/C34H33F2N6O3S.BrH/c1-21-11-25(12-22(2)32(21)45-31(43)15-38-4)16-41-19-39-42(20-41)18-34(44,28-13-27(35)9-10-29(28)36)23(3)33-40-30(17-46-33)26-7-5-24(14-37)6-8-26;/h5-13,17,19-20,23,38,44H,15-16,18H2,1-4H3;1H/q+1;/p-1/t23-,34+;/m0./s1
